Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Lexapro / morphine / Oxycodone / propofol
 
Attending: ___.
 
Chief Complaint:
CP/SOB
 
Major Surgical or Invasive Procedure:
Intubation/extubation (___)
 
History of Present Illness:
___ with hx of recurrent syncope s/p ppm, pSVT, hypothyroidism, 
HL p/w CP/SOB which awoke her from sleep, found to have new 
onset pulmonary edema and respiratory failure requiring 
intubation. 
.
Per the pt's daughter and husband, she was in her usual state of 
health until last night when she reported feeling warm and 
faint(which are symptoms that usually precede a syncopal event). 
This morning). She ate hot dogs and beans for dinner, and ate 
her usual ice cream. This am the pt woke up, drank coffee and 
ate part of a muffin, and then wandered outside. She was found 
by her husband to be complaining of chest pain, which escalated 
to the point that she was screaming for help. She also had SOB. 
.
Per the EMS run report, they found the pt to have BP 240/140 HR 
140 RR 40 O2 sat 75%RA. At the time she was A&Ox3, though in 
severe resp distress, with elevated jvd and accessory muscle 
use. No peripheral edema. The pt had an ekg (sinus tach w/pac 
and multifocal pvc, no st changes) and was given ntg 0.8mg sl 
spray x 3. She was started on cpap 10mm h20 w/slight improvement 
in o2 sat and resp effort.
.
On arrival to ___ ED the pt had VS HR 68 BP 185/110 RR 34 97% 
on cpap and on exam had rales ___ way up her lung fields. The pt 
was found alert at first, but mental status began to decline. 
She was changed from CPAP to bipap, however pt wasn't responding 
to commands consistently and then became unresponsive to 
commands. She was intubated with 20 etom/100 sux, and continued 
on fent/versed gtts for sedation. 
.
CXR showed ETT in place, though could be pulled back 1-2cm, and 
moderate pulm edema with R hilar fullness. Due to initial 
concern for pna, the pt was given a dose of 
vanc/cefepime/levoflox. She was also given PR ASA and 20mg lasix 
IV. Of note, pt had initial. EKG w/ LVH and lateral TWI (v4-v6). 
The pt triggered around 750am ___ mins after intubation) for 
hypotension to the ___ and repeat EKG showed some elevations 
in V2 and V3. During episode of hypotension, pt was given 1L NS 
IV. She again dropped her Bps to the ___ when bolused with 
midaz.  
.
Labs significant for initial trop <0.01 MB 2, BNP 1388, ABG 
7.22/
53/198/23 after which RR was increased to 22. WBC 11.2. VS at 
time of transfer 86/42, HR 70. 
.
On arrival to the ICU, the pt was sedated, vent was changed to 
cpap with RR around 14. HR ___, sBPs 120s-130s. 
.
The pt's husband and ___ deny recent URI, dyspnea, CP, or 
___ edema. 
.
Of note, per the pt's daughter, she has had episodes of labile 
blood pressure in the past, with BPs as high 200s (sometimes 
precipitated by paradoxic reactions to morphine, sometimes 
without explanation). She also notes that the pt has had 
syncopal episodes and episodes of staring off for ___ for which 
she has been seen by cardiology and neurology. A ppm was placed 
in ___ to help combat an "arrhythmia" and since then she has 
only had fewer episodes, last in ___. She denies any recent 
changes in medications or ppm settings. Note from ___ states 
prior TTEs have been normal. 
.
On review of systems, no prior history of stroke, TIA, deep 
venous thrombosis, pulmonary embolism, bleeding at the time of 
surgery, myalgias, joint pains, cough, hemoptysis, black stools 
or red stools. No denies recent fevers, chills or rigors. No 
exertional buttock or calf pain. All of the other review of 
systems were negative.
.  
Cardiac review of systems is notable for absence of dyspnea on 
exertion, paroxysmal nocturnal dyspnea, orthopnea, ankle edema, 
palpitations. 

 
Past Medical History:
1. CARDIAC RISK FACTORS: - Diabetes, +Dyslipidemia, 
?Hypertension  
2. CARDIAC HISTORY: 
-CABG: none 
-PERCUTANEOUS CORONARY INTERVENTIONS: none
-PACING/ICD: Yes
3. OTHER PAST MEDICAL HISTORY:
- S3 vertebral body fracture with anterior displacement anterior 
fragment full width of the vertebral body with potential for 
compromise. 
- Fracture at the sacral coccygeal junction, not displaced. 
- Osteoporosis 
- Scoliosis. 
- Recurrent syncopal episodes with a pacemaker in place  
- Depression and weight loss, improved on Remeron
- Gastroesophageal reflux. 
- Hypothyroidism 
- Hyperlipidemia. 
- Diverticular disease.   
- Left wrist surgery
- paroxysmal supraventricular tachycardia
- status post right inguinal hernia repair

 
Social History:
___
Family History:
Significant for stroke, coronary artery disease
 
Physical Exam:
ADMISSION EXAM
GENERAL: sedated, intubated 
HEENT: mmm
NECK: no LAD
CARDIAC: PMI located in ___ intercostal space, midclavicular 
line. RR, normal S1, S2. frequent PACs. No m/r/g. No thrills, 
lifts. No S3 or S4.  
LUNGS: faint rales anteriorly
ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not 
enlarged by palpation. No abdominial bruits.  
EXTREMITIES: No c/c/e. No femoral bruits.  
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
PULSES:  
Right: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ ___ 2+  
Left: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ ___ 2+  
.
DISCHARGE EXAM
VS: Tc 98.6 135/92 (101-155/70-90) 72 (60-110) 18 97%RA
Weight 56.5k->56.9 (59.6K)
I/O: 8H ___, 24H ___
Physical Exam:
GEN: awake, alert, NAD
HEENT: PERRLA, EOMI, OMM no lesions
NECK: no JVP 
CV: RRR, no m/r/g appreciated
Lungs: Crackles bilaterally at bases otherwise good air movement
ABD: soft, + BS
VASC: No edema. Palpable peripheral pulses
 
Pertinent Results:
ADMISSION LABS
___ 06:22AM   ___ 06:22AM   PLT SMR-NORMAL PLT COUNT-294
___ 06:22AM   ___ PTT-26.4 ___
___ 06:22AM   HYPOCHROM-NORMAL ANISOCYT-NORMAL POIKILOCY-2+ 
MACROCYT-NORMAL MICROCYT-NORMAL POLYCHROM-NORMAL 
OVALOCYT-OCCASIONAL BURR-2+
___ 06:22AM   NEUTS-34.5* LYMPHS-57.0* MONOS-5.6 EOS-2.5 
BASOS-0.4
___ 06:22AM   WBC-11.2* RBC-3.87* HGB-11.7* HCT-38.2 
MCV-99* MCH-30.3 MCHC-30.7* RDW-12.3
___ 06:22AM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 06:22AM   cTropnT-<0.01
___ 06:22AM   CK-MB-2 proBNP-1388*
___ 06:22AM   LIPASE-39
___ 06:22AM   GLUCOSE-275* UREA N-13 CREAT-1.0 SODIUM-139 
POTASSIUM-4.3 CHLORIDE-103 TOTAL CO2-19* ANION GAP-21*
___ 06:47AM   freeCa-1.09*
___ 06:47AM   HGB-12.0 calcHCT-36 O2 SAT-96 CARBOXYHB-2 MET 
HGB-0
___ 06:47AM   GLUCOSE-252* LACTATE-4.5* NA+-140 K+-4.1 
CL--105
___ 06:47AM   ___ PO2-118* PCO2-48* PH-7.18* TOTAL 
CO2-19* BASE XS--10 INTUBATED-NOT INTUBA
___ 07:49AM   O2 SAT-99
___ 07:49AM   LACTATE-2.8*
___ 07:49AM   TYPE-ART PO2-198* PCO2-53* PH-7.22* TOTAL 
CO2-23 BASE XS--6
___ 10:47AM   TYPE-ART PO2-97 PCO2-48* PH-7.32* TOTAL 
CO2-26 BASE XS--
___ 12:09PM   CK-MB-3 cTropnT-0.04*
___ 09:00PM   CK-MB-3 cTropnT-<0.01
___ 09:00PM   CK(CPK)-68
___ 09:00PM   GLUCOSE-94 UREA N-10 CREAT-0.8 SODIUM-138 
POTASSIUM-3.9 CHLORIDE-104 TOTAL CO2-26 ANION GAP-12
___ 10:32PM   TYPE-ART PO2-160* PCO2-46* PH-7.41 TOTAL 
CO2-30 BASE XS-
.
PERTINENT LABS
___ 06:22AM BLOOD cTropnT-<0.01
___ 06:22AM BLOOD CK-MB-2 proBNP-1388*
___ 12:09PM BLOOD CK-MB-3 cTropnT-0.04*
___ 09:00PM BLOOD CK-MB-3 cTropnT-<0.01
___ 02:45AM BLOOD CK-MB-3 cTropnT-<0.01
.
DISCHARGE LABS
___ 06:54AM BLOOD WBC-7.4 RBC-3.39* Hgb-10.4* Hct-31.5* 
MCV-93 MCH-30.7 MCHC-33.1 RDW-12.6 Plt ___
___ 06:54AM BLOOD Glucose-79 UreaN-14 Creat-0.8 Na-141 
K-4.2 Cl-103 HCO3-28 AnGap-14
___ 06:54AM BLOOD Calcium-8.6 Phos-4.0 Mg-2.0
.
REPORTS
Portable TTE (Complete) Done ___ at 9:30:00 AM      FINAL 
.
The left atrium is mildly dilated. No atrial septal defect is 
seen by 2D or color Doppler. There is mild symmetric left 
ventricular hypertrophy. The left ventricular cavity size is 
normal. There is moderate global left ventricular hypokinesis 
(LVEF = 30 %) with basal to mid LV hypokinesis - the LV apex has 
more preserved systolic function (more c/w non-ischemic CM). No 
masses or thrombi are seen in the left ventricle. There is no 
ventricular septal defect. Right ventricular chamber size is 
normal with borderline normal free wall function. The ascending 
aorta is mildly dilated. The aortic valve leaflets (3) are 
mildly thickened. There is no aortic valve stenosis. Trace 
aortic regurgitation is seen. The mitral valve leaflets are 
mildly thickened. There is no mitral valve prolapse. Mild to 
moderate (___) mitral regurgitation is seen. The tricuspid 
valve leaflets are mildly thickened. The pulmonary artery 
systolic pressure could not be determined. There is no 
pericardial effusion.  
.
___   Imaging CHEST (PORTABLE AP) 
.
FINDINGS and IMPRESSION: There are diffuse interstitial 
opacities seen within both lungs, consistent with moderate 
pulmonary edema.  Increased consolidation behind the left heart 
may reflect atelectasis but repeat imaging after diuresis is 
recommended.   There is no definite pleural effusion.  There is 
no pneumothorax.  The heart is mildly enlarged.  Prominence of 
the right hilus may reflect underlying lymphadenopathy but this 
is impossible to discern given the extensive edema. 
 . 
Endotracheal tube is 2.4 cm above the carina with the neck in 
neutral 
position.  This could be withdrawn by 1-2 cm to prevent 
intermittent right 
mainstem intubation with neck flexion.  An enteric tube courses 
along the 
esophagus and enters the stomach, heading superiorly, presumably 
within a 
hiatal hernia.   
 . 
A right ventricular lead, from a left side dual lead pacer, 
takes an unusual course but is likely within the coronary sinus. 
 Dense calcfications project over the left heart and are thought 
to reflect a combination of both aortic and aortic valve 
calcifications, raising concern for aortic stenosis. Splenic 
calcifications are present. 
.
CHEST (PORTABLE AP) Study Date of ___ 7:10 AM 
.
There is substantial interval improvement in pulmonary edema, 
resolved except for the lung bases.  The patient was extubated 
with removal of the NG tube.  Heart size and mediastinum are 
currently stable with the left mediastinal shift which might be 
in part related to left lower lobe atelectasis.  No pneumothorax 
is seen. 
.
___   Cardiovascular ECHO   ___ 
.
Conclusions  
The left atrium is mildly dilated. LV systolic function appears 
globally depressed (ejection fraction 30 percent), with regional 
variation. The interventricular septum appears more hypokinetic 
than the rest of the left ventricle. Right ventricular chamber 
size and free wall motion are normal. The ascending aorta is 
mildly dilated. The aortic valve leaflets (3) are mildly 
thickened but aortic stenosis is not present. The mitral valve 
leaflets are mildly thickened. Moderate (2+) mitral 
regurgitation is seen. Moderate [2+] tricuspid regurgitation is 
seen. [Due to acoustic shadowing, the severity of tricuspid 
regurgitation may be significantly UNDERestimated.] There is 
mild pulmonary artery systolic hypertension. There is no 
pericardial effusion. 
.
___   Imaging CHEST (PA & LAT) 
.
IMPRESSION: 
 . 
1. Interval improvement in bibasilar opacities.  No new opacity 
identified.  No CHF. 
2. COPD and moderately severe cardiomegaly.   
3. Borderline aneurysmal dilatation of the upper abdominal 
aorta. 
 
Brief Hospital Course:
___ with hx of recurrent syncope s/p ppm, pSVT, hypothyroidism, 
HL p/w CP/SOB which awoke her from sleep, found to have new 
onset pulmonary edema and respiratory failure requiring 
intubation. 
. 
ACUTE ISSUES
# CP/Respiratory failure: 
Patient presented with report of substernal chest pain and SOB, 
found to be hypoxic and hypertensive with rales on exam. 
Untimately required intubation. CXR appeared consistent with 
moderate pulmonary edema. No documented CHF, not on home 
diuretics, however does have hx of hyperlipidemia. New onset 
pulm edema in setting of CP and HTN concerning for precipitating 
ischemic event vs hypertensive emergency. Negative cardiac 
enzymes, transient lateral STE resolving in ICU, and TTE with 
new depression in EF to 30%, but without evidence of ischemic 
changes. A repeat ECHO showed persistent reduced EF, but per 
discussion with family, patient would not like diagnositic 
cardiac cath, thus patient was medically optimized. She was 
continued on carvedilol and started on lisinopril and 
furosemide. 
.
# Global hypokinesis, EF 30%: 
Patient with presumed new decreased EF to 30%, without ischemic 
distribution. History not c/w prior CHF (no ___ edema, DOE, 
orthopnea). Presumed secondary to hypertension emergency with 
cardiac stunning. CE remained negative, EKG remained without 
acute changes suggestive of ischemia.  Repeat ECHO showed EF 
persistently depressed, will start basic CHF meds  
.
# Hypotension/Hypertension: 
Patient with history of labile BPs at baseline, not on home 
antihypertensives. Was initially very hypertensive and then 
dropped BPs in setting of intubation and sedation. Stable at 
discharge on carvedilol and lisinopril.
.  
CHRONIC ISSUES
# Recurrent syncopal episodes s/p ppm: 
Has had extensive workup and etiology is not totally clear, 
however believed to be cardiac source, improved with pacemaker 
placement. Transient episode of AVP, PSVT, as per EP pacer 
working appropriately.  
.
# Hyperglycemia: 
Initial serum glucose 275 without known history of DM. Patient 
was covered with sliding-scale insulin, but her glucoses 
normalized by discharge. 
.
# HL: 
Continued pravastatin.
.
# Osteoporosis with hx of multiple fractures: 
Continued calcium + vitD.
.
# Depression: 
Continued mirtazepine, paroxetine.
. 
# GERD: 
Continued omeprazole.
.
# Hypothyroidism: 
Continued levothyroxine.
.
TRANSITIONAL ISSUES:
#Patient should have follow-up with PCP and primary cardiologist 
within ___ business days to evaluate medication regimen.
.
#Patient found to have borderline aneurysmal dilatation (2.9cm) 
of the upper abdominal aorta. This should be followed per 
recommendations.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Levothyroxine Sodium 88 mcg PO DAILY 
2. Vitamin D ___ UNIT PO DAILY 
3. Pravastatin 20 mg PO HS 
4. Mirtazapine 7.5 mg PO HS 
5. Paroxetine 10 mg PO QHS 
6. Ascorbic Acid ___ mg PO BID 
7. Fish Oil (Omega 3) 1000 mg PO BID 
8. Multivitamins 1 TAB PO DAILY 
9. Acetaminophen ___ mg PO Q6H:PRN pain 
10. Omeprazole 20 mg PO DAILY 

 
Discharge Medications:
1. Acetaminophen ___ mg PO Q6H:PRN pain 
2. Ascorbic Acid ___ mg PO BID 
3. Fish Oil (Omega 3) 1000 mg PO BID 
4. Levothyroxine Sodium 88 mcg PO DAILY 
5. Mirtazapine 7.5 mg PO HS 
6. Multivitamins 1 TAB PO DAILY 
7. Omeprazole 20 mg PO DAILY 
8. Paroxetine 10 mg PO QHS 
9. Pravastatin 20 mg PO HS 
10. Vitamin D ___ UNIT PO DAILY 
11. Aspirin 81 mg PO DAILY 
RX *aspirin [Adult Low Dose Aspirin] 81 mg 1 tablet,delayed 
release (___) by mouth daily Disp #*30 Tablet Refills:*0
12. Carvedilol 3.125 mg PO BID 
RX *carvedilol 3.125 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0
13. Furosemide 20 mg PO DAILY 
RX *furosemide 20 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0
14. Lisinopril 2.5 mg PO DAILY 
RX *lisinopril 2.5 mg 1 tablet(s) by mouth daily Disp #*1 Tablet 
Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
flash pulmonary edema requiring intubation
decreased LVEF

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear ___, 
.
It was a pleasure participating in your care. You were admitted 
because you developed chest pain and shortness of breath. You 
were found to have some fluid in your lungs and decreased 
functioning of your heart, and required intubation briefly to 
help with your briefly. The cause of this episode is not clear, 
but may be due to your high blood pressure or narrowing of your 
blood vessels in your heart. We have started some new 
medications to control your blood pressure and to help get rid 
of the fluid in your lungs. You will need to follow up with your 
primary care doctor and your cardiologist for further management 
of these medications as they may need to be titrated over time. 
 
Followup Instructions:
___